US05143928
A mixture of 5-[1-[3,5-bis(1,1-dimethylethyl)-4hydroxyphenyl]ethylidene]-2-thioxo-4-thiazolone (1.6 g, 4 mmoles), iodomethane (0.45 mL, 7 mmoles), and diisopropylethylamine (1.1 mL, 6 mmoles) in 20 mL of ethanol is stirred under N2 at room temperature for 16 hours, then stirred into 200 mL of water. The precipitate is filtered off, rinsed with water, and dried to afford the product (1.4 g) of 5-[1-[3,5bis(1,1-dimethylethyl)-4-hydroxyphenyl]-ethylidene]-2-(methylthio)-4(5H)-thiazolone, mp 206°-209° C. A sample recrystallized from acetonitrile was analytically pure, mp 224°-226° C.

reactant | 5-[1-[3,5-bis(1,1-dimethylethyl)-4hydroxyphenyl]ethylidene]-2-thioxo-4-thiazolone | 4 mmoles, 1.6 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C)=C1C(NC(S1)=S)=O | C19H25NO2S2
reactant | iodomethane | 7 mmoles, 0.45 mL | IC | CH3I
reactant | diisopropylethylamine | 6 mmoles, 1.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 200 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-[1-[3,5bis(1,1-dimethylethyl)-4-hydroxyphenyl]-ethylidene]-2-(methylthio)-4(5H)-thiazolone | 1.4 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C)=C1C(N=C(S1)SC)=O | C20H27NO2S2
